US04689327
480 mg of (+)-N-methyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carbothioamide and 339 mg of methyl trans-3-(4-methoxyphenyl)glycidate are dissolved in 40 ml of ethanol, and the solution is refluxed for 11 hours under heating. 339 mg of methyl trans-3-(4-methoxyphenyl)glycidate are added to the mixture, and the mixture is further refluxed for 3 hours. The mixture is concentrated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, chloroform:ethanol=40:1), and the resultant product is recrystallized from a mixture of ethyl acetate and n-hexane. 350 mg of (+)-N-methyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide are obtained. Yield: 75.7%.

reactant | (+)-N-methyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carbothioamide | 480 mg | CNC(=S)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC=CC=C1 | C23H30N4OS2
reactant | methyl trans-3-(4-methoxyphenyl)glycidate | 339 mg | COC1=CC=C(C=C1)[C@@H]2[C@H](O2)C(=O)OC | C11H12O4
reactant | methyl trans-3-(4-methoxyphenyl)glycidate | 339 mg | COC1=CC=C(C=C1)[C@@H]2[C@H](O2)C(=O)OC | C11H12O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (+)-N-methyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide | 350 mg, Yield: 75.7% | CNC(=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC=CC=C1 | C23H30N4O2S
